US09227978B2
Methyl 2′,5′,6-trichloro-4-methoxy-[1,1′-biphenyl]-3-carboxylate
A mixture of Methyl 4-chloro-5-iodo-2-methoxybenzoate (1.8 g, 5.51 mmol), (2,5-dichlorophenyl)boronic acid (2.1 g, 11.03 mmol), Pd(PPh3)4 (403 mg, 0.55 mmol), Na2CO3 (1.75 g, 16.54 mmol) in 1,4-dioxane (50 mL) and water (5 mL) was stirred at reflux under argon for 16 h. The mixture was filtered and filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=20:1) to afford the desired product (1.6 g, 85% yield).

reactant | Methyl 4-chloro-5-iodo-2-methoxybenzoate | 5.51 mmol, 1.8 g | ClC1=CC(=C(C(=O)OC)C=C1I)OC | C9H8ClIO3
reactant | (2,5-dichlorophenyl)boronic acid | 11.03 mmol, 2.1 g | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 16.54 mmol, 1.75 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.55 mmol, 403 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2′,5′,6-trichloro-4-methoxy-[1,1′-biphenyl]-3-carboxylate | 1.6 g, 85% yield | ClC1=C(C=C(C=C1)Cl)C1=CC(=C(C=C1Cl)OC)C(=O)OC | C15H11Cl3O3
